US04472424
Preparation of p-(2-thenoylmercaptopropionyl glyciloxy) acetamidobenzene.
5.4 grams (0.020 moles) of 2-thenoylmercaptopropionylglycine were added to 50 ml of tetrahydrofurane. The temperature of the resulting mixture was brought to 0° C., then a solution of ethylchloroformate (2.2 grams; 0.020 moles) in 10 ml of anhydrous CH2Cl2 was slowly added. To the resulting solution, the following solution was slowly added:

reactant | 2-thenoylmercaptopropionylglycine | 0.020 moles, 5.4 grams | C1(=CC=CS1)C(=O)SCCC(=O)NCC(=O)O | C10H11NO4S2
reactant | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
reactant | ethylchloroformate | 0.020 moles, 2.2 grams | C(C)OC(=O)Cl | C3H5ClO2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | acetamidobenzene | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
